US09108939B2
B: 2-(4-((4-(Ethylamino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
A mixture of tert-butyl ethyl(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)carbamate (6.61 mmol, 3.2 g), dichloromethane (10 mL) and trifluoroacetic acid (10 mL) was stirred for 20 hours. Purification by SCX chromatography gave the title compound (2.5 g). MS (ESI) m/z 385.1 [M+H]+

reactant | tert-butyl ethyl(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)carbamate | 6.61 mmol, 3.2 g | C(C)N(C(OC(C)(C)C)=O)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C22H30F6N2O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-((4-(Ethylamino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 2.5 g | C(C)NC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H22F6N2O
